US07967872B2
Step 2: Synthesis of 1,1′-{disulfanediylbis[ethane-2,1-diylimino(4-oxobutane-4,1-diyl)]}bis{4-[{4-[bis(2-hydroxyethyl)amino]phenyl}diazenyl]quinolinium}dichloride
0.35 g of 2,2′-({4-[(quinolin-4-yl)diazenyl]-phenyl}-imino)diethanol and 0.18 g of N,N′-(disulfanediyldiethane-2,1-diyl)bis(4-chlorobutanamide) are solubilized in 2 mL acetonitrile. The mixtured is heated at reflux for 24 h, cooled and poured on 50 mL acetone. The resulting oil is washed several times with acetone.

reactant | 2,2′-({4-[(quinolin-4-yl)diazenyl]-phenyl}-imino)diethanol | 0.35 g | N1=CC=C(C2=CC=CC=C12)N=NC1=CC=C(C=C1)N(CCO)CCO | C19H20N4O2
reactant | N,N′-(disulfanediyldiethane-2,1-diyl)bis(4-chlorobutanamide) | 0.18 g | S(SCCNC(CCCCl)=O)CCNC(CCCCl)=O | C12H22Cl2N2O2S2
reactant | acetone | 50 mL | CC(=O)C | C3H6O
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 1,1′-{disulfanediylbis[ethane-2,1-diylimino(4-oxobutane-4,1-diyl)]}bis{4-[{4-[bis(2-hydroxyethyl)amino]phenyl}diazenyl]quinolinium}dichloride | [Cl-].[Cl-].S(SCCNC(CCC[N+]1=CC=C(C2=CC=CC=C12)N=NC1=CC=C(C=C1)N(CCO)CCO)=O)CCNC(CCC[N+]1=CC=C(C2=CC=CC=C12)N=NC1=CC=C(C=C1)N(CCO)CCO)=O | InChI=1S/C50H60N10O6S2.2ClH/c61-33-29-57(30-34-62)41-17-13-39(14-18-41)53-55-45-21-27-59(47-9-3-1-7-43(45)47)25-5-11-49(65)51-23-37-67-68-38-24-52-50(66)12-6-26-60-28-22-46(44-8-2-4-10-48(44)60)56-54-40-15-19-42(20-16-40)58(31-35-63)32-36-64;;/h1-4,7-10,13-22,27-28,61-64H,5-6,11-12,23-26,29-38H2;2*1H
